US06713474B2
4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine (1.0 g) was added to a mixture of sodium hydride (0.158 g of a 60% dispersion in mineral oil) in dimethyl formamide (70 ml) with stirring under nitrogen at 0° C. The mixture was stirred at 0° C. for 1 hour and then α-bromo-γ-butyrolactone (0.60 g) in dimethylformamide (6 ml) was added dropwise with stirring at 0° C. The mixture was stirred at ambient temperature for 18 hours and then quenched with water (100 ml). The mixture was extracted with ethyl acetate. The combined extracts were dried and evaporated to give 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-butyrolactone as an oil which was used directly in b).

reactant | 4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.0 g | NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H14N4O
reactant | sodium hydride | [H-].[Na+]
reactant | α-bromo-γ-butyrolactone | 0.60 g | BrC1C(=O)OCC1 | C4H5BrO2
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-butyrolactone | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2C(=O)OCC2 | C22H18N4O3
